US07232827B2
To a solution of 895 mg (6 mmol) of (+)-(6R)-(6,7-dihydro-5H-[1]pyrindin-6-yl)-methanol in 50 ml of anhydrous dichloromethane was added, at −15° C., 0.918 ml (6.6 mmol) of triethylamine and 0.465 ml (6 mmol) of methanesulfonyl chloride. The resulting mixture was stirred at 0° C. for 45 min. The mixture was then diluted with water and dichloromethane and extracted with dichloromethane. Organic layer was dried and evaporated to give 1.4 g (100%) of methanesulfonic acid 6,7-dihydro-5H-[1]pyrindin-6-ylmethyl ester.

reactant | (+)-(6R)-(6,7-dihydro-5H-[1]pyrindin-6-yl)-methanol | 6 mmol, 895 mg | N1=CC=CC=2C[C@H](CC12)CO | C9H11NO
reactant | triethylamine | 6.6 mmol, 0.918 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6 mmol, 0.465 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | methanesulfonic acid 6,7-dihydro-5H-[1]pyrindin-6-ylmethyl ester | 1.4 g, 100% | N1=CC=CC=2CC(CC12)COS(=O)(=O)C | C10H13NO3S
